US07351571B2
p-Bromo-β-phenylalanine (10.0 g, 41 mmol) was mixed with 40 ml of water and adjusted to pH 14 with 25% sodium hydroxide aqueous solution. After being cooled to 5° C., 8.5 ml of acetic anhydride (90 mmol) and 25% sodium hydroxide aqueous solution were simultaneously dropped into the mixture to keep it at a pH range of 11.5˜12 and the resulting mixture was stirred for 3 hours at a room temperature. After the mixture was adjusted to pH 2 with conc. HCl and stirred for one hour, the resulting precipitated crystal was filtered and dried under reduced pressure to give quantitatively 12.0 g of acetyl-p-bromo-β-phenylalanine.

reactant | p-Bromo-β-phenylalanine | 41 mmol, 10.0 g | BrC1=CC=C([C@H](N)CC(=O)O)C=C1 | C9H10BrNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic anhydride | 90 mmol, 8.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | Cl | ClH
solvent | water | 40 ml | O | H2O
product | acetyl-p-bromo-β-phenylalanine | 12.0 g | C(C)(=O)N[C@@H](C1=CC=C(C=C1)Br)CC(=O)O | C11H12BrNO3
